US06743920B2
4-Chloro-2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridine
N-(2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide (26.43 g), anhydrous toluene (400 ml), and phosphorus oxychloride (74 ml) were combined and heated to 110° C. for 16 hours. HPLC analysis of the resulting reaction mixture indicated 30% completion. The reaction mixture was heated to reflux for an additional 24 hours when the reaction was found to be complete. The resulting reaction mixture was cooled, and the phosphorus oxychloride and toluene were removed under reduced pressure. The resulting black oil was dissolved in ethyl acetate and water, and the aqueous layer was made basic with sodium carbonate. The basic aqueous layer was washed with ethyl acetate (2×). The organic layers were combined, dried with magnesium sulfate, and concentrated to a black oil under reduced pressure. The oil was extracted with hot hexane. The resulting hexane solution was filtered hot, and the filtrate was cooled to below 0° C. overnight The resulting orange and black crystals were washed with cold hexane. NMR analysis of the resulting product (14.02 g) indicated only minor impurities, and the product was carried on to the next step.

reactant | N-(2-Chloro-4-(2-methylpropylamino)-6-methylpyridin-3-yl]-2-ethoxyacetamide | 26.43 g | ClC1=NC(=CC(=C1NC(COCC)=O)NCC(C)C)C | C14H22ClN3O2
reactant | phosphorus oxychloride | 74 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridine | ClC1=NC(=CC2=C1N=C(N2CC(C)C)COCC)C | C14H20ClN3O
